US09371516B2
In some embodiments, step (d) comprises culturing cells in the presence of a serum-free medium (e.g., 50× dilution of B27, Gibco, 05-1295A), 15-1500 ng/ml (e.g., 15 . . . 50 . . . 100 . . . 200 . . . 500 . . . 1000 . . . 1500, or ranges or values therein) insulin-like growth factor I, 80-8000 ng/ml (e.g., 80 . . . 100 . . . 200 . . . 500 . . . 1000 . . . 2000 . . . 8000, or ranges or values therein) insulin-like growth factor II, 1-100 ng/ml (e.g., 1 . . . 2 . . . 5 . . . 10 . . . 20 . . . 50 . . . 100, or ranges or values therein) fibroblast growth factor (e.g., FGF7), 0.4-40 ng/ml (e.g., 0.4 . . . 1 . . . 2 . . . 5 . . . 10 . . . 20 . . . 40, or ranges or values therein) insulin, 1-100 mM (e.g., 1 . . . 2 . . . 5 . . . 10 . . . 20 . . . 50 . . . 100, or ranges or values therein) nicotinamide, 1-100 nM (e.g., 1 . . . 2 . . . 5 . . . 10 . . . 20 . . . 50 . . . 100, or ranges or values therein) exendin-4 and/or GLP-1, 0.1-10 μM (e.g., 0.1 . . . 0.2 . . . 0.5 . . . 1 . . . 2 . . . 5 . . . 10, or ranges or values therein) of a TGF-beta receptor (e.g., actin-like kinase 5) inhibitor (e.g., ALK5i, ALK5i II, GW-6004, A 83-01, D 4476, GW 788388, LY 365947, RepSox, SB 431542, SB 525334, SD 208, etc. (See, e.g., Tocris Bioscience)), and 2.5-250 μM (e.g., 2.5 . . . 5 . . . 10 . . . 20 . . . 50 . . . 100 . . . 250, or ranges or values therein) of one or more agents that increase cAMP (e.g., forskolin, glucagon, IBMX, GLP-1/gastrin dual peptide, glucagon/GLP-1 dual peptide, etc.). In some embodiments, step (d) comprises culturing cells in the presence of a serum-free medium (e.g., 50x dilution of B27, Gibco, 05-1295A), 135-165 ng/ml insulin-like growth factor I, 80-8000 ng/ml insulin-like growth factor II, 8-12 ng/ml fibroblast growth factor (e.g., FGF7), 3.2-4.8 ng/ml insulin, 8-12 mM nicotinamide, 8-12 nM exendin-4 and/or GLP-1, 0.8-1.2 μM of a TGF-beta receptor (e.g., actin-like kinase 5) inhibitor (e.g., ALK5i, ALK5i II, GW-6004, A 83-01, D 4476, GW 788388, LY 365947, RepSox, SB 431542, SB 525334, SD 208, etc. (See, e.g., Tocris Bioscience)), and 10-30 μM of one or more agents that increase cAMP (e.g., forskolin, glucagon, IBMX, GLP-1/gastrin dual peptide, glucagon/GLP-1 dual peptide, etc.). In some embodiments, an amount of one or more agents that increase cAMP (e.g., forskolin, glucagon, IBMX, GLP-1/gastrin dual peptide, glucagon/GLP-1 dual peptide, etc.) is used that produces a similar effect to 20-30 μM of forskolin. In some embodiments, an amount of a TGF-beta receptor (e.g., actin-like kinase 5) inhibitor (e.g., ALK5i, ALK5i II, GW-6004, A 83-01, D 4476, GW 788388, LY 365947, RepSox, SB 431542, SB 525334, SD 208, etc. (See, e.g., Tocris Bioscience)) is used that produces a similar effect to 0.8-1.2 μM of ALK5i II. In some embodiments, step (d) comprises culturing cells in the presence of a serum-free medium (e.g., 50× dilution of B27, Gibco, 05-1295A), about 150 ng/ml insulin-like growth factor I, about 800 ng/ml insulin-like growth factor II, about 10 ng/ml fibroblast growth factor (e.g., FGF7), about 4 ng/ml insulin, about 10 mM nicotinamide, about 10 nM exendin-4 and/or GLP-1, about 1 μM of a TGF-beta receptor (e.g., actin-like kinase 5) inhibitor (e.g., ALK5i, ALK5i II, GW-6004, A 83-01, D 4476, GW 788388, LY 365947, RepSox, SB 431542, SB 525334, SD 208, etc. (See, e.g., Tocris Bioscience)), and about 25 μM of one or more agents that increase cAMP (e.g., forskolin, glucagon, IBMX, GLP-1/gastrin dual peptide, glucagon/GLP-1 dual peptide, etc.). In some embodiments, the concentration of agents that increase cAMP is one that produces an equivalent effect to about 25 μM forskolin. In some embodiments, step (d) comprises culturing cells in the presence of a serum-free medium (e.g., 50× dilution of B27, Gibco, 05-1295A), 150 ng/ml insulin-like growth factor I, 800 ng/ml insulin-like growth factor II, 10 ng/ml fibroblast growth factor (e.g., FGF7), 4 ng/ml insulin, 10 mM nicotinamide, 10 nM exendin-4 and/or GLP-1, 1 μM of a TGF-beta receptor (e.g., actin-like kinase 5) inhibitor (e.g., ALK5i, ALK5i II, GW-6004, A 83-01, D 4476, GW 788388, LY 365947, RepSox, SB 431542, SB 525334, SD 208, etc. (See, e.g., Tocris Bioscience)), and 25 μM of one or more agents that increase cAMP (e.g., forskolin, glucagon, IBMX, GLP-1/gastrin dual peptide, glucagon/GLP-1 dual peptide, etc.). In some embodiments, one or more agents that increase cAMP are included in a concentration that produces an equivalent effect to 25 μM (e.g., 100 μM IBMX).

reactant | nicotinamide | 10 mM | C(C1=CN=CC=C1)(=O)N | C6H6N2O
reactant | exendin-4 | 10 nM | CC[C@H](C)[C@@H](C(=O)N[C@@H](CCC(=O)O)C(=O)N[C@@H](CC1=CNC2=C1C=CC=C2)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CC(=O)N[C@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O[C@H]4[C@@H]([C@H]([C@H]([C@H](O4)CO[C@@]5(C[C@@H]([C@H]([C@@H](O5)C[C@@H]([C@@H](CO)O)O)NC(=O)C)O)C(=O)O)O)O)O)O)NC(=O)C)C(=O)NCC(=O)NCC(=O)N6CCC[C@H]6C(=O)N[C@@H](CO)C(=O)N[C@@H](CO)C(=O)NCC(=O)N[C@@H](C)C(=O)N7CCC[C@H]7C(=O)N8CCC[C@H]8C(=O)N9CCC[C@H]9C(=O)N[C@@H](CO)C(=O)N)NC(=O)[C@H](CC=1C=CC=CC1)NC(=O)[C@H](CC(C)C)NC(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](C(C)C)NC(=O)[C@H](C)NC(=O)[C@H](CCC(=O)O)NC(=O)[C@H](CCC(=O)O)NC(=O)[C@H](CCC(=O)O)NC(=O)[C@H](CCSC)NC(=O)[C@H](CCC(=O)N)NC(=O)[C@H](CCCCN)NC(=O)[C@H](CO)NC(=O)[C@H](CC(C)C)NC(=O)[C@H](CC(=O)O)NC(=O)[C@H](CO)NC(=O)[C@H]([C@@H](C)O)NC(=O)[C@H](CC=1C=CC=CC1)NC(=O)[C@H]([C@@H](C)O)NC(=O)CNC(=O)[C@H](CCC(=O)O)NC(=O)CNC(=O)[C@H](CC1=CN=CN1)N | C210H324N52O78S
reactant | D 4476 | C1COC2=C(O1)C=CC(=C2)C3=C(NC(=N3)C4=CC=C(C=C4)C(=O)N)C5=CC=CC=N5 | C23H18N4O3
reactant | RepSox | CC1=CC=CC(=N1)C2=C(C=NN2)C3=NC4=C(C=C3)N=CC=C4 | C17H13N5
reactant | cAMP | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@H]4[C@H](O3)COP(=O)(O4)O)O)N | C10H12N5O6P
product | IBMX | 100 μM | CC(C)CN1C2=C(C(=O)N(C1=O)C)NC=N2 | C10H14N4O2
